US07781441B2
e) (5,8-Dichloro-4-methyl-3,4-dihydro-quinazolin-2-yl)-(2-phenoxy-ethyl)-amine
5,8-Dichloro-4-methyl-2-methylsulfanyl-3,4-dihydro-quinazoline hydroiodide (116 mg, 0.30 mmol) and 2-phenoxyethyl amine (126 mg, 0.9 mmol) were dissolved in acetonitrile (0.9 ml) and heated to 170° C. in a sealed tube in a microwave oven for 30 minutes. After cooling the reaction was treated with 1N aqueous sodium hydroxide solution (0.9 ml) and 5 to 7 drops of 30% aqueous hydrogen peroxide solution. The reaction was diluted with water and the product precipitated as a white solid, which was filtered off, washed with water and dried in vacuo to yield the title compound (98 mg, 93%).

reactant | 5,8-Dichloro-4-methyl-2-methylsulfanyl-3,4-dihydro-quinazoline hydroiodide | 0.30 mmol, 116 mg | I.ClC1=C2C(NC(=NC2=C(C=C1)Cl)SC)C
reactant | 2-phenoxyethyl amine | 0.9 mmol, 126 mg | O(C1=CC=CC=C1)CCN | C8H11NO
reactant | sodium hydroxide | 1N, 0.9 ml | [OH-].[Na+]
solvent | acetonitrile | 0.9 ml | C(C)#N | C2H3N
catalyst | hydrogen peroxide | 5 to 7 drops | OO | H2O2
solvent | water | O | H2O
product | (5,8-Dichloro-4-methyl-3,4-dihydro-quinazolin-2-yl)-(2-phenoxy-ethyl)-amine | 98 mg, 93% | ClC1=C2C(NC(=NC2=C(C=C1)Cl)NCCOC1=CC=CC=C1)C | C17H17Cl2N3O
